US08877801B2
To a vial containing (E)-tert-butyl 3-(4-((2-(4-(difluoromethyl)phenyl)-6-hydroxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate (30 mg, 0.061 mmol) in THF (1.0 mL) was added HCl (4.0 N in dioxane, 0.4 mL, 1.600 mmol). The resulting mixture was stirred at 50° C. for 12 h after which time the reaction was concentrated in vacuo and purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 10-100% CH3CN/H2O) to afford (E)-3-(4-((2-(4-(difluoromethyl)phenyl)-6-hydroxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (21 mg, 0.048 mmol, 79% yield). LC/MS (m/z, M-H): 437.5.

reactant | (E)-tert-butyl 3-(4-((2-(4-(difluoromethyl)phenyl)-6-hydroxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.061 mmol, 30 mg | FC(C1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)OC2=CC=C(C=C2)/C=C/C(=O)OC(C)(C)C)F | C28H24F2O4S
reactant | HCl | 1.600 mmol, 4.0 N, 0.4 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (E)-3-(4-((2-(4-(difluoromethyl)phenyl)-6-hydroxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.048 mmol, 21 mg, 79% yield | FC(C1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)OC2=CC=C(C=C2)/C=C/C(=O)O)F | C24H16F2O4S
